US07122679B2
Diethyl 1-(triisopropylsilyl)-1,6,7,8-tetrahydrocyclopent[g]indole-4,5-dicarboxylate
A 2:1 mixture of 2-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole and 3-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole (1.16 g, 4.01 mmol) and diethyl fumarate (0.75 g, 4.36 mmol) were heated under nitrogen to 150° C. for 64 h, affording the crude Diels-Alder adduct as an amber oil. The pure Diels-Alder adduct could be isolated by chromatography on silica gel (hexanes-ether 90:10). NMR (CDCl3) δ 6.68 (d, 1H), 6.16 (d, 1H), 4.20 (m, 4H), 3.95 (d, 1H), 2.91 (t, 2H), 2.49 (m, 1H), 2.09 (m, 1H), 1.73 (m, 2H), 1.48 (septet, 3H), 1.30 (2t, 6H), 1.27 (d, 9H), 1.07 (d, 9H). MS m/e 462 (M+H)+. DDQ (2.2 g, 9.7 mmol) was added in three portions to a benzene solution (16 mL) of the crude Diels-Alder adduct at 50° C. until no starting material remained (TLC and NMR). After 8 h, the mixture was filtered through Celite®. The precipitate was rinsed with benzene, and the filtrate was evaporated to give 1.52 g of a black solid. This was chromatographed on silica gel (hexanes-ether 15:85 to 20:80) to give the product (380 mg, 21% yield, 35% yield from 2-isomer) as a colorless oil. NMR (CDCl3) δ 7.42 (d, 1H), 7.05 (d, 1H), 4.40 (2q, 4H), 3.20 (t, 2H), 3.12 (t, 2H), 2.17 (quintet, 2H), 1.67 (septet, 3H), 1.39 (t, 3H), 1.36 (t, 3H), 1.20 (d, 18H). MS m/e 458 (M+H)+.

reactant | 2-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole | C1(=CCCC1)C=1N(C=CC1)[Si](C(C)C)(C(C)C)C(C)C | C18H31NSi
reactant | 3-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole | 4.01 mmol, 1.16 g | C1(=CCCC1)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C18H31NSi
reactant | diethyl fumarate | 4.36 mmol, 0.75 g | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
reactant | DDQ | 9.7 mmol, 2.2 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | benzene | 16 mL | C1=CC=CC=C1 | C6H6
product | Diethyl 1-(triisopropylsilyl)-1,6,7,8-tetrahydrocyclopent[g]indole-4,5-dicarboxylate | 1.52 g, 21% yield | C(C)(C)[Si](N1C=CC2=C(C(=C3C(=C12)CCC3)C(=O)OCC)C(=O)OCC)(C(C)C)C(C)C | C26H39NO4Si
